US09315521B2
To a 0° C. mixture of lithium aluminum hydride (2.0 g, 53 mmol) in anhydrous THF (100 mL) was slowly added a solution of ethyl 3,5-dimethylpyridine-4-carboxylate (4.77 g, 26.6 mmol) in anhydrous THF (30 mL). The reaction mixture was stirred at 0° C. for 1.5 hours. The reaction was quenched with 5 N NaOH. Water (100 mL) and EtOAc (100 mL) were added. The mixture was stirred for 30 minutes. The solid material was removed by filtration. The organic layer was recovered. The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic extracts were dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (3,5-dimethylpyridin-4-yl)methanol (2.55 g, 70% yield). The product was used without further purification.

reactant | lithium aluminum hydride | 53 mmol, 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3,5-dimethylpyridine-4-carboxylate | 26.6 mmol, 4.77 g | CC=1C=NC=C(C1C(=O)OCC)C | C10H13NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (3,5-dimethylpyridin-4-yl)methanol | 2.55 g, 70% yield | CC=1C=NC=C(C1CO)C | C8H11NO
